US05981533
99.7 mg (0.60 mmol) of 3,5-dimethoxy-benzaldehyde are added to a solution of 130 mg (0.50 mmol) of 3-amino-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine in 26 ml of methanol and 120 mg (2.0 mmol) of acetic acid. As the reaction mixture is stirred, a solid precipitates which can be dissolved again by the addition of 52 ml of DMEU. 220 mg (3.5 mmol) of NaCNBH3 are added thereto and stirring is then continued for 5 hours at RT. Since not all of the 3-amino-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine has been reacted (HPLC), 220 mg of NaCNBH3 are added twice more and stirring is continued for 5 hours each time. The reaction solution is then poured into 1 liter of water, stirred vigorously for 1 hour and filtered. Crystallization of the filtration residue from acetone yields 4-(3-chloro-phenylamino)-3-(3,5-dimethoxybenzylamino)-1H-pyrazolo[3,4-d]pyrimidine; m.p. 208-209° C.; HPLC: TRet (Grad20-100)=11.7; FAB-MS: (M+H)+ =411.

reactant | 3,5-dimethoxy-benzaldehyde | 0.60 mmol, 99.7 mg | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | 3-amino-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | 0.50 mmol, 130 mg | NC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C11H9ClN6
reactant | acetic acid | 2.0 mmol, 120 mg | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | 3.5 mmol, 220 mg | [BH3-]C#N.[Na+]
reactant | NaCNBH3 | 220 mg | [BH3-]C#N.[Na+]
solvent | methanol | 26 ml | CO | CH4O
solvent | water | 1 liter | O | H2O
product | 4-(3-chloro-phenylamino)-3-(3,5-dimethoxybenzylamino)-1H-pyrazolo[3,4-d]pyrimidine | ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2NCC2=CC(=CC(=C2)OC)OC | C20H19ClN6O2
